US04093812
Stir together 18 g of 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde, 6.95 of hydroxylamine hydrochloride and 8.2 g of sodium acetate in 70 ml of water for 1.5 hours at 70° C. Cool the resulting admixture slowly to 0° C. Separate the formed precipitate by vacuum filtration and wash the residue with several portions of ice-cold water to obtain a 97% yield of 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehydeoxime [m.p. 233° to 235° C (with decomposition)].

reactant | 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde | 18 g | [N+](=O)([O-])C1=CC=C(O1)C1=NNC=C1C=O | C8H5N3O4
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium acetate | 8.2 g | C(C)(=O)[O-].[Na+]
solvent | water | 70 ml | O | H2O
product | 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehydeoxime | 97% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NNC=C1C=NO | C8H6N4O4
